US09169254B2
10% Pd/C (590 mg) was added to 3-benzyloxy-4-trifluoromethyl-benzoic acid in a methanol-ethyl acetate mixed solvent (1:1), and the mixture was stirred at room temperature for two days in a hydrogen atmosphere. The reaction solution was filtered through celite, and the filtrate was then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to give 3-hydroxy-4-trifluoromethyl-benzoic acid (582 mg, 86%).

reactant | 3-benzyloxy-4-trifluoromethyl-benzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1C(F)(F)F | C15H11F3O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 590 mg | [Pd] | Pd
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 3-hydroxy-4-trifluoromethyl-benzoic acid | 582 mg, 86% | OC=1C=C(C(=O)O)C=CC1C(F)(F)F | C8H5F3O3
